US07723330B2
Step B: Preparation of N-(3-fluoro-4-(1-(4-methoxybenzyl)-3-(piperidin-4-ylmethyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carboxamide:
Dissolved tert-butyl 4-((4-(2-fluoro-4-(4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carboxamido)phenoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl)methyl)piperidine-1-carboxylate (43 mg, 0.055 mmol) in DCM (1 mL) and added excess TFA (d 1.48) (0.100 ml). The mixture was stirred at room temperature for 18 hours. The solvent was removed, and the crude was partitioned between DCM (15 mL) and aqueous 10% Na2CO3 (20 mL). The organic layer was washed with brine, dried over sodium sulfate and evaporated to afford title compound as free-base. Yield 41 mg, 89% purity by HPLC, 97%. LRMS (APCI pos) m/e 678.3 (M+H).

reactant | tert-butyl 4-((4-(2-fluoro-4-(4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carboxamido)phenoxy)-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-3-yl)methyl)piperidine-1-carboxylate | 0.055 mmol, 43 mg | FC1=C(OC2=C3C(=NC=C2)N(N=C3CC3CCN(CC3)C(=O)OC(C)(C)C)CC3=CC=C(C=C3)OC)C=CC(=C1)NC(=O)C1=NC=CN(C1=O)C1=CC=C(C=C1)F | C42H41F2N7O6
reactant | TFA | 0.100 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(3-fluoro-4-(1-(4-methoxybenzyl)-3-(piperidin-4-ylmethyl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-4-(4-fluorophenyl)-3-oxo-3,4-dihydropyrazine-2-carboxamide | FC=1C=C(C=CC1OC1=C2C(=NC=C1)N(N=C2CC2CCNCC2)CC2=CC=C(C=C2)OC)NC(=O)C2=NC=CN(C2=O)C2=CC=C(C=C2)F | C37H33F2N7O4
